Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ female with a past medical history of 
hyperlipidemia, diabetes, and prior stroke with residual 
right-sided deficits and left-sided facial droop
presenting to us as a transfer for a pharmacological stress 
test.

Patient has noted frequent intermittent sharp left sided chest 
pain over the past 3 days. When it does occur, she states that 
it lasts for approximately 15
to 20 minutes.  It can come on when she is sitting or laying 
down. No radiation of pain. Nothing makes the pain better. Not 
associated with eating food. Denies
lightheadedness, palpitations, vision changes, or fainting 
spells
with the chest pain. 

Patient was assessed at ___ and ___ troponin was noted to be 
negative. Her chest x-ray showed no intrathoracic process. Her 
EKG did not show any acute findings. Patient was transferred to 
us for pharmacological stress test.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes  
- Dyslipidemia  
2. CARDIAC HISTORY  
- No CAD, no prior cardiac cath
- No prior TTE, unknown EF
- Atrial fibrillation (CVA event to right side of brain with 
left
hemiplegia in ___
3. OTHER PAST MEDICAL HISTORY  
- Left knee fracture 
- Osteoarthritis
- C-section
 
Social History:
___
Family History:
Father - liver cancer and diabetes 
Sister - breast cancer
Mother - CAD and hypertension 
 
Physical Exam:
Admission Physical Exam: 
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. Left pupil 
1mm
larger than right pupil but both reactive to light 
NECK: supple  
CARDIAC: Normal S1, S2. No murmurs, rubs, or gallops. no thrills
or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. Right hand edematous and RLE
slightly edematous 
SKIN: No significant skin lesions or rashes.  
NEUROLOGIC: AOx3, L side face droop, LUE and LLE ___ throughout,
RUE 4+/5 bicep/tricep/grip strength, RLE 4+/5 throughout with
more weakness noted for dorisflexion of ankle/knee extension

EKG: sinus rhythm, no ST-T changes concerning for ischemia, no q 
waves

Discharge:
GENERAL: Well developed, well nourished in NAD. Oriented.  Mood, 
affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. Left pupil 
1mm
larger than right pupil but both reactive to light 
NECK: supple  
CARDIAC: Normal S1, S2. No murmurs, rubs, or gallops. no thrills
or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. Right hand edematous and RLE
slightly edematous 
SKIN: No significant skin lesions or rashes.  
NEUROLOGIC: AOx3, L side face droop, LUE and LLE ___ throughout,
RUE 4+/5 bicep/tricep/grip strength, RLE 4+/5 throughout with
more weakness noted for dorisflexion of ankle/knee extension
 
Pertinent Results:
Admission:
----------

___ 06:30AM BLOOD WBC-5.6 RBC-3.94 Hgb-10.9* Hct-33.2* 
MCV-84 MCH-27.7 MCHC-32.8 RDW-13.2 RDWSD-40.5 Plt ___
___ 06:30AM BLOOD Glucose-119* UreaN-14 Creat-0.9 Na-145 
K-4.5 Cl-103 HCO3-26 AnGap-16
___ 01:20AM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD Calcium-9.6 Phos-4.8* Mg-2.0

Discharge:
---------
___ 07:06AM BLOOD WBC-7.4 RBC-4.01 Hgb-10.9* Hct-33.9* 
MCV-85 MCH-27.2 MCHC-32.2 RDW-13.2 RDWSD-40.6 Plt ___
___ 07:06AM BLOOD UreaN-18 Creat-0.9 Na-144 K-4.4 Cl-106 
HCO3-23 AnGap-15

Cardiac perfusion scan
FINDINGS:  Left ventricular cavity size is normal. 
Rest and stress perfusion images reveal uniform tracer uptake 
throughout the 
left ventricular myocardium. 
  
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 82% which 
is overestimated 
due to small cavity size. 
  
IMPRESSION:  No evidence of perfusion defect.  Normal 
ventricular function. 

Stress
------
INTERPRETATION: This ___ year old IDDM woman with PMH of CVA was 
referred to the lab for evaluation of chest discomfort. Due to 
limited 
mobility, the patient was infused with 0.4 mg/5ml of regadenoson 
over 20 
seconds followed immediately by isotope infusion. No arm, neck, 
back or 
chest discomfort was reported by the patient throughout the 
study. 
There were no significant ST segment changes during the infusion 
or in 
recovery. The rhythm was sinus with rare isolated vpbs. 
Appropriate 
hemodynamic response to the infusion and recovery. 
IMPRESSION: No anginal type symptoms or ST segment changes. 
Nuclear 
report sent separately. 

 
Brief Hospital Course:
___ transferred from OSH for pharmacological stress test in the 
setting of intermittent left sided chest pain. Testing was 
negative for ischemia.

Chest pain: 3 day history of left sided chest pain, 
non-exertional in nature, not reproducible. No prior history of 
CAD/MI. Troponins x2 negative and EKG without concerning ST 
changes. Risk factors include HLD & DM II. She is non-ambulatory
and therefore unable to undergo exercise stress testing. 
- P-MIBI negative for ischemia
- Likely musculoskeletal advised to f/u with PCP if pain worsens 
or becomes different in quality and frequency 

================  
CHRONIC ISSUES:  
================  
#Atrial Fibrillation: CHADVASC 4, had CVA in ___ in the
setting of pAF. Currently in sinus rhythm. 
- Continue Apixaban & Metoprolol 

#DM II:  
- Resume Metformin, held inpt

#Stroke: has baseline left facial droop with right sided 
hemiplegia.
Per patient at her baseline.
- Continue home eye drops

#Hyperlipidemia:
- Continue Rosuvastatin 40mg  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 1000 mg PO BID 
2. Apixaban 5 mg PO BID 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Rosuvastatin Calcium 40 mg PO QPM 
5. Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE QID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Apixaban 5 mg PO BID  
3.  Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE QID  
4.  MetFORMIN XR (Glucophage XR) 1000 mg PO BID  
5.  Metoprolol Succinate XL 100 mg PO DAILY  
6.  Rosuvastatin Calcium 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
VS: 99/65, 95, 20, 95% ra, 97.9 
Wt: 56.6 kg
General: Alert, no acute distress 
Cardiovascular: Regular rate/rhythm
Respiratory: Lungs clear bilaterally, breathing non-labored
Abdomen: Soft, Non-tender, +BS 
Extremities: BLE warm with trace RLE edema which patient reports
is chronic  
Skin: Warm, dry and intact 
Neuro: Alert, oriented x 3, appropriate. Chronic L facial droop.
RUE & RLE with chronic hemiplegia s/p stroke in ___.  

 
Discharge Instructions:
 You were transferred to ___ for cardiac evaluation and 
a cardiac stress test for further evaluation of your symptoms of 
chest pain. Your testing was normal indicating it is unlikely to 
be your heart that is the cause of your pain.
We think the most likely cause of your pain is due to a 
musculoskeletal strain. This should improve without 
intervention.  If your pain does not improve over the next 
several days or worsens you should follow up with your primary 
care physician.

 It has been a pleasure to have participated in your care. If 
you have any questions related to your hospitalization or are 
experiencing any symptoms that are concerning to you and are 
unable to reach your cardiologist, you can call the ___ Heart 
line at ___ to page us and receive a call back from a 
cardiologist or cardiac nurse practitioner.
 
Followup Instructions:
___